data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][CH:21]1[C:22](=[OH+:23])C(CC2C13CCN(C2CC4=C3C(=C(C=C4)OC)O)CC5CCC5)OC.COC1CC2C3CC4=C(C2(CC[N:10]3CC5CCC5)CC1=O)C(=C(C=C4)OC)O.CS(=O)(=O)[O-]>>[H:20][N+:10]1(CCC23CC(=O)C(CC2C1CC4=C3C(=C(C=C4)OC)O)OC)CC5CCC5.COC1CC2C3CC4=C(C2(CCN3CC5CCC5)[CH:21]=[C:22]1[OH:23])C(=C(C=C4)OC)O.CS(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
C1CN(CCC1[C:20](CC(C2=CC=NC=C2)C(=O)C3=CC=C(C=C3)F)([NH2:10])[OH2+:21])C(=O)OCC4=CC=CC=C4.CC(=O)[O-]>>C1CN(CCC1[C:20](=[NH2+:10])CC(C2=CC=NC=C2)C(=O)C3=CC=C(C=C3)F)C(=O)OCC4=CC=CC=C4.[OH2:21].CC(=O)[O-] 10=20;20,21=21
[CH:11]1=[CH:10]C2=CC=C(C=C2C=C1)C#N.[N+:20](=O)=[O:21]>>C1=CC2=CC(=CC=C2[CH:10]([CH+:11]1)[N+:20](=O)[O-:21])C#N 10,11=10,20;20,21=21
[H:20][O:21]CC1C(O1)C2C(COC(O2)(C)C)O.CC(C)(C)[O-:10]>>[H:20][O:10]C(C)(C)C.CC1(OCC(C(O1)C2C(O2)C[O-:21])O)C 10=20;20,21=21
[H:20][OH+:21]C(C)(C)SCCS.[OH2:10]>>[H:20][OH2+:10].CC(C)([OH:21])SCCS 10=20;20,21=21
[H:20][C:21]1(C=CC=C[C+:22]1O)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[C:22](C=CC=C1)O 10=20;20,21=21,22
[H:20][OH+:21]C(C=C)(N(CC)CC)O.[OH2:10]>>CCN(CC)C(C=C)(O)[OH:21].[H:20][OH2+:10] 10=20;20,21=21
C[Si-:10](C)(C)(O)[O:11]S(=O)(=O)C>>C[Si:10](C)(C)O.CS(=O)(=O)[O-:11] 10,11=11
CC(C)O[Al:20](OC(C)C)OC(C)C.CC(=O)C1(CCC2C1(CCC3C2CC=C4C3(CCC(C4)[OH:10])C)C)OC(=O)C.CC(C)[O-]>>CC(C)O[Al-:20]([OH+:10]C1CCC2(C3CCC4(C(C3CC=C2C1)CCC4(C(=O)C)OC(=O)C)C)C)(OC(C)C)OC(C)C.CC(C)[O-] 10=20,
CC(C)(C)[Si-:10](C)(C)(C)[O:11]S(=O)(=O)C>>CC(C)(C)[Si:10](C)(C)C.CS(=O)(=O)[O-:11] 10,11=11
C1=C[CH:10]=[C:11](C=C1)CBr.[N+:20](=O)=[O:21]>>C1=C[CH:10]([C+:11](C=C1)CBr)[N+:20](=O)[O-:21] 10,11=10,20;20,21=21
[H:20][CH:21]([CH:22]=[O:23])Br.[OH-:10]>>[H:20][OH:10].[CH:22](=[CH:21]Br)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][CH:21](C(=O)CC1=CC=CC=C1)[C:22](=[O:23])NC.[OH-:10]>>[H:20][OH:10].CN[C:22](=[CH:21]C(=O)CC1=CC=CC=C1)[O-:23] 10=20;22,23=23;20,21=21,22
C=C1CCCC2C1CC[C:20](C2)([N:10]3CCCC3)[OH2+:21].C1CCNC1>>C=C1CCCC2C1CC[C:20](=[N+:10]3CCCC3)C2.[OH2:21].C1CCNC1 10=20;20,21=21
C[Mg-:10]([P+:11](C)(Cl)Cl)I>>C[Mg:10]I.C[P:11](Cl)Cl 10,11=11
C[C:20](=[O:21])OC(=O)C(=CC1=CC(=C(C=C1)OC)O)C2=CC(=C(C(=C2)OC)OC)OC.[OH2:10].[OH3+].[Cl-]>>C[C:20]([OH2+:10])([O-:21])OC(=O)C(=CC1=CC(=C(C=C1)OC)O)C2=CC(=C(C(=C2)OC)OC)OC.[OH3+].[Cl-] 10=20;20,21=21
CC(=O)C1=CO[CH:10]=[CH:11]1.O[S+:20](=O)=O>>CC(=O)C1=CO[CH:10]([CH+:11]1)[S:20](=O)(=O)O 10,11=10,20
[H:20][N+:21]1=CC=CC=C1.C1CC[C:11](=[CH:10]C1)[OH:12]>>[H:20][CH:10]1CCCC[C:11]1=[OH+:12].C1=CC=[N:21]C=C1 10,11=10,20;20,21=21;12=11
C[N+:21](=[CH2:20])C.[Cl-:10]>>C[N:21](C)[CH2:20][Cl:10] 10=20;20,21=21
C1C(C1C(CO)O[Sn-](Cl)(Cl)(Cl)Cl)[CH+:20]CCCC(=[O:10])O>>C1C[CH:20]([O+:10]=C(C1)O)C2CC2C(CO)O[Sn-](Cl)(Cl)(Cl)Cl 10=20,
[H:20][N:21](C)C(=O)CC(=O)CC1=CC=CC=C1.[NH2-:10]>>[H:20][NH2:10].C[N-:21]C(=O)CC(=O)CC1=CC=CC=C1 10=20;20,21=21
C[C:20](=[O:21])C.CP(=O)(C)[CH2-:10]>>C[C:20](C)([CH2:10]P(=O)(C)C)[O-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CC1(CCC2(CCCC1(C2=O)Br)C(=O)OC)[OH:10]>>[H:20][OH+:10]C1(CCC2(CCCC1(C2=O)Br)C(=O)OC)C.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.[C-:10]#CCC1=C(C=CC=C1)N>>[H:20][C:10]#CCC1=C(C=CC=C1)N.OS(=O)(=O)[O-:21] 10=20;20,21=21
C[Si:20](C)(C)Cl.[F-:10]>>C[Si-:20](C)(C)([F:10])Cl 10=20,
CC[OH:10].CC1CCC([C+:20]1C)(C)C>>CC[OH+:10][C:20]1(C(CCC1(C)C)C)C 10=20,
[H:20][O:21]C(=O)C(CC1=CC=CC=C1)[NH3+].CC1=C(CCC2(C1(CCCC2=O)[OH:10])C)O.CC1(C2CCC1(C(=O)C2)CS(=O)(=O)[O-])C.C1=CC=C(C=C1)CC(C(=O)O)N>>[H:20][OH+:10]C12CCCC(=O)C1(CCC(=C2C)O)C.C1=CC=C(C=C1)CC(C(=O)[O-:21])[NH3+].CC1(C2CCC1(C(=O)C2)CS(=O)(=O)[O-])C.C1=CC=C(C=C1)CC(C(=O)O)N 10=20;20,21=21
[H:20][O+:21](C1=CC=CC=C1)C(C)([O-])OC(=O)C.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC(=O)OC(C)([O-])[O:21]C1=CC=CC=C1 10=20;20,21=21
C[CH2:20][Br:21].[NH3:10]>>C[CH2:20][NH3+:10].[Br-:21] 10=20;20,21=21
[H:10][BH3-:11].C(C=C[CH:20]=[O:21])[O-]>>[H:10][CH:20](C=CC[O-])[O-:21].[BH3:11] 10,11=10,20;20,21=21
CC[Al-]([O+:21]=[C:20]1CCCC(C1)[C:11](=[CH2:10])C[Si](C)(C)C)(Cl)Cl.[Cl-]>>CC[Al-]([O:21][C:20]12CCCC(C1)[C+:11]([CH2:10]2)C[Si](C)(C)C)(Cl)Cl.[Cl-] 10,11=10,20;20,21=21
CC[OH+:21][CH:20](CNC(COCC1=CC=CC=C1)C2=C3C(=C(C(=C2)OC)C)OCO3)[O:10]CC.O.[Cl-]>>CC[OH:21].CC[O+:10]=[CH:20]CNC(COCC1=CC=CC=C1)C2=C3C(=C(C(=C2)OC)C)OCO3.O.[Cl-] 10=20;20,21=21
C1=CC(=N[C:11](=[C:10]1[CH:20](Cl)[Cl:21])[NH2:12])N.CCO.O.[Na+]>>C1=CC(=N[C:11](=[NH2+:12])[C:10]1=[CH:20]Cl)N.[Cl-:21].CCO.O.[Na+] 10,11=10,20;20,21=21;12=11
[H:20][O+:21]1C(CCCC1(O)OCC)C2=CC=CC=C2.C(=O)(C(F)(F)F)[O-:10]>>[H:20][O:10]C(=O)C(F)(F)F.CCOC1(CCCC([O:21]1)C2=CC=CC=C2)O 10=20;20,21=21
[CH2:20]([OH:10])[Cl:21]>>[CH2:20]=[OH+:10].[Cl-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.C1=CC(=C(C=C1)NC2=C(C=CC=C2Cl)Cl)C[OH:10]>>[H:20][OH+:10]CC1=C(C=CC=C1)NC2=C(C=CC=C2Cl)Cl.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
CC=C[CH2:20][O:21][PH+:22](Br)Br.[Br-:10]>>CC=C[CH2:20][Br:10].[O:21]=[PH:22](Br)Br 10=20;20,21=21,22
CC1CCC2C1C(=[O+][Zn-:10](I)[I:11])C2.C[Si](C)(C)I>>CC1CCC2C1C(=[O+][Zn:10]I)C2.[I-:11].C[Si](C)(C)I 10,11=11
